US05273999
Preparation of 1,2-Dihydro-8-hydroxy-3H-naphtho[2,1-b]pyran-3-one
Starting with 4.84 g (21.2 mmol) of 1,2-dihydro-8-methoxy-3H-naphtho[2,1-b]pyran-3-one from the preceding example, the title compound (3.19 g; 70.3%) was obtained as an off-white solid, mp 189°-199° C. (recrystallized from ethanol-ethyl acetate), using the procedure of example 221.

reactant | 1,2-dihydro-8-methoxy-3H-naphtho[2,1-b]pyran-3-one | 21.2 mmol, 4.84 g | COC=1C=C2C=CC=3OC(CCC3C2=CC1)=O | C14H12O3
solvent | ethanol ethyl acetate | C(C)O.C(C)(=O)OCC
product | 1,2-Dihydro-8-hydroxy-3H-naphtho[2,1-b]pyran-3-one | 3.19 g, 70.3% | OC=1C=C2C=CC=3OC(CCC3C2=CC1)=O | C13H10O3
